US05273999
Preparation of 6-(Carboxymethoxy)-2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-1-naphthalenepropanoic Acid
Starting with 0.736 g (1.19 mmol) of 2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-6-(2-ethoxy-2oxoethoxy)-1-naphthalenepropanoic acid ethyl ester from the preceding example, the title compound (0.352 g; 52.6%) was obtained as a white solid, mp 160.5°-163° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 226.

reactant | 2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-6-(2-ethoxy-2oxoethoxy)-1-naphthalenepropanoic acid ethyl ester | 1.19 mmol, 0.736 g | C(C)OC(CCC1=C(C=CC2=CC(=CC=C12)OCC(=O)OCC)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C36H44O9
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 6-(Carboxymethoxy)-2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-1-naphthalenepropanoic Acid | 0.352 g, 52.6% | C(=O)(O)COC=1C=C2C=CC(=C(C2=CC1)CCC(=O)O)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C32H36O9
